US07678834B2
1.16 g magnesium were stirred into 20 ml analytical grade diethyl ether under a nitrogen atmosphere and approximately one third of the solution of 6.19 g 2-fluorobenzyl chloride in 25 ml analytical grade diethyl ether was added. The remainder of the solution was rapidly added dropwise after the Grignard formation had started, and when the addition had ended the mixture was subsequently stirred for one hour, a solution of 5.00 g 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile in 25 ml analytical grade diethyl ether was then added dropwise and the reaction mixture was stirred overnight. For working up, 36 ml ammonium chloride solution (20 per cent by weight) were added, while cooling with ice, the phases were separated, the aqueous phase was extracted twice with 50 ml diethyl ether each time and the combined organic phases were washed successively with 20 ml water and 20 ml saturated sodium chloride solution. The crude [8-(2-fluorobenzyl)-1,4-dioxaspiro[4.5]dec-8-yl]dimethylamine obtained (7.34 g) was stirred, without further purification, with a mixture of 18 ml conc. hydrochloric acid (32 per cent by weight) and 10 ml water for 24 hours at room temperature. The reaction mixture was then first washed three times with 50 ml diethyl ether each time and then adjusted to pH 9 by addition of aqueous ammonia (25 per cent by weight), while cooling with ice, and extracted three times with 50 ml methylene chloride each time, the combined methylene chloride extracts were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. 5.80 g 4-dimethylamino-4-(2-fluorobenzyl)cyclohexanone were obtained as a yellow solid.

reactant | magnesium | 1.16 g | [Mg] | Mg
reactant | 2-fluorobenzyl chloride | 6.19 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 5.00 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | ammonium chloride | 36 ml | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | [8-(2-fluorobenzyl)-1,4-dioxaspiro[4.5]dec-8-yl]dimethylamine | FC1=C(CC2(CCC3(OCCO3)CC2)N(C)C)C=CC=C1 | C17H24FNO2
